Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"I lost control.  I pushed someone who was in control."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old man with unknown past psychiatric
history who apparently became agitated at a widespread panic
concert and was observed to be kicking and spitting, requiring 7
officers to subdue him.  He was brought to the ED by ambulance
and was highly agitated on presentation, chanting loudly in
gibberish which he called "speaking in tongues."  The patient 
was
given Zyprexa 10mg and became more sedate, but was still unable
to cooperate with an interview and responded to questions with
gibberish.  

On re-evaluation the following morning, the patient was able to
speak coherently at times giving his father's name and phone
number, but repeatedly reverted back to gibberish, at which 
point
he would gesticulate and make facial expressions as if he were
trying to communicate something important.  He exhibited 
paranoia
asking for a glass of water and then refusing it three times
because it had been spit in.  He was evasive and guarded and
repeatedly suggested that the interviewers would burn in hell 
and
stated that he spoke to god daily and that he knew how to speak
in tongues.  He was easily distractible asking if we thought it
interesting that the sheets had the word ___ printed on
them.  He became quickly frustrated with the questioning and
demanded that we leave the room and threatened that we would all
be in trouble once he got out of the hospital.

Obtained collateral information from pt's father ___
___ cell, ___ office, ___ home).
According to the father, last ___ pt was behaving 
bizzarely, walking
naked around the house, staying in bathroom for several hours,
punching walls, singing, reading Bible, writing, talking about
suicide. Pt's father describes some ideas of reference, eg pt
reading a newspaper and relating it to himself, grandiosity - pt 

thinking he's direct descendant ___ ___. Father
states that pt is preoccupied with scars on his face s/p acne as
a teenager and often feels that people are looking at him. He is
not really able to describe concrete manic episodes, rather he
states that pt usually keeps to himself, sleeps during the day,
plays drums at 3 am in the attic.      

Additional collateral info was obtained per ___
(___), ___ at ___, who
visited pt at the hospital. Ms. ___ stated that she knows very
little about the patient. According to her, he is taking 2
classes at ___ - Creative Writing and 
Music.
Pt's creative writing professor remarked that pt has been in
class only twice, that he was "strange, sarcastic, detached, had
written a bizarre writing excercise". 

Medical records obtained from pt's ___ hospitalization
indicate that he was started on Lithium 300 mg 2 po AM and 3 po
___, as well as Lunesta 3 mg po qhs, and Valium 5 mg bid prn.

 
Past Medical History:
According to the father pt has been diagnosed with bipolar
disorder in ___ after being hospitalized for bizzare
behavior at ___ in ___, ___. At that
time pt was started on Lithium, which he has been taking
sporadically. He was followed by a psychiatrist Dr. ___
___ ___. Pt has suffered from depression
since age ___, been on mul. He has been hospitalized multiple
times. He has hx of SA, first at age ___ for OD on "some pills"
and also another time he put rope around his neck.

Per father, no ___ PMH, no allergies
 
Social History:
___
Family History:
none
 
Physical Exam:
On admission:
MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION:  Patient is a dishevelled
young man with short brown hair and facial scruff.  he has a
small abrasion on his L shoulder and some light bruising around
his jaw line.  He avoids eye contact and has a blank expression
on his face.
     POSTURE:  No bizarre posturing or waxy flexibility.
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS):  Patient initially
chanting loudly in gibberish when first brought into ED.
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE):  Patient
uncooperative with interviewer, demanding that interviewer 
"leave
now" and "stop asking questions."
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
Speech pressured at times, sing song in quality, 
incomprehensible
as it sounds like a different language that he calls "speaking 
in
tongues."
     MOOD:  Patient declines to say.
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.): 
Restricted, dysphoric.
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.):  Thought process
is disorganized, tangential as he answers questions with
irrelevant responses and is easily distracted.  
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.):  Patient is hyperreligious, paranoid,
grandiose.
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS):  Patient
declines to answer.  However, states that he speaks to god 
daily.
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO):  unknown
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT, PLAN): 
unknown
     INSIGHT AND JUDGMENT:  Poor insight and judgment.
     COGNITIVE ASSESSMENT:  Patient alert but unable to 
cooperate
with cognitive exam.  Does not answer questions appropriately.
          

Physical exam: notable for superficial abrasions on left knee 
and shoulder

On Discharge: Pt. is a young male with intact grooming. Behavior 
is calm, but irritable at times, cooperative with exam. speech 
is RRR. Mood is "fine." Affect irritable. TP-linear. TC- no 
overt evidence of delusions, no abnormal perceptions. No S/H 
TIP. I/J-fair.
 
Pertinent Results:
___ 01:30PM URINE  ___ BACTERIA-FEW YEAST-NONE 
EPI-0 RENAL ___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 01:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 01:30PM URINE  HOURS-RANDOM
___ 06:45AM BLOOD Glucose-87 UreaN-14 Creat-0.9 Na-142 
K-4.2 Cl-106 HCO3-29 AnGap-11
___ 06:45AM BLOOD Calcium-9.7 Phos-3.9 Mg-1.8
___ 05:07PM URINE PHENCYCLIDINE-neg.

RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

  
 
Brief Hospital Course:
Pt. medically cleared and admitted to ___ inpatient 
psychiatry service after spending 2 days in ED for agitated 
behavior requiring multiple chemical restraints. Patient 
evaluated upon arrival to unit and placed on 15 min checks. Pt. 
refused to sign a CV.

Psych: Pt. initial presentation consisted of psychotic symptoms, 
namely grandiose and paranoid delusions, of being ___ the 
___, being able to speak in tongues, thinking people had 
spit in his water. ___ also beleived that he could read the 
mind of the the young girl he pushed and believed that she was 
making fun of his breasts and acne scars. He consistently denied 
any auditory hallucinations. ___ thought disorder and 
disorganization of speech were quite striking during his initial 
presentation and early part of his hospitalization, 
characterized by extreme looseness of associations, bordering on 
pressured and angry derailed tirades. ___ also presented with 
noticeably flat affect despite his angry and irritable behavior 
early on in his admission. He initially refused to take any 
medication and denied anything was wrong. An affadavit for court 
commitment was filed prior to expiration of ___ and ___ 
was committed to unit for 45 days, and required to take 
medication. ___ was started on Geodon 40 mg BID, which was 
quickly titrated up to 60 mg BID and eventually 80 mg BID after 
5 days. He also received Ativan 1 mg q6 PRN anxiety and poor 
sleep which he used regularly. He tolerated the medications with 
minimal side effects, though some ? stiffness was noted and 
patient was given Cogentin as well with each dose of Geodon. In 
the second week of medication, ___ developed an episode of 
orthostatic hypotension and his dose was decreased to 60 mg BID 
for 1 week. His orthostatis resolved with increased PO intake, 
and ___ was able to be titrated back up to 80 mg BID, Cogentin 
was also d/c'd. It was felt Geodon would be an appropriate 
antipsychotic for ___ given its neutral metabolic profile, 
ability for IM dosing if needed, lower risk for EPS, and little 
risk of prolaction elevation (given concern over breasts). ___ 
responded very slowly over the first 2 weeks of medication, 
showing improvement in his thought disorder and speech 
organization. The most striking feature of ___ hospital 
course, though, were his marked negative sxs which seemed to 
worsen during his stay: flat affect, alogia, withdrawal, apathy, 
and demoralization. It was thought that ___ likely was 
suffering from post-psychotic depression. Through discussions 
about his presentation and literature review, it was thought 
___ might benefit from initiation of Mirtazapine to help with 
negative sxs. He was started on 15 mg HS. Unfortunately, ___ 
did not tolerate the medication well, and developed intolerable 
sedation. The medication was thus discontinued on ___.  The 
patient was continued on the Geodon 60mg PO BID which he 
tolerated and was also continued on Cogentin 1mg PO BID PRN and 
Ativan 1mg PO TID PRN. The patient was discharged with 
prescriptions for the above medications and with a plan to 
follow up with his psychiatrist in two weeks.

As far as Mr. ___ diagnosis. He is ___ yo male admitted with 
bizarre and agitated behavior, exhibiting grandiose and paranoid 
delusions, and severe thought disorder. Patient has a ___ year 
history dating back to age ___ of depressive sxs and obsessive 
traits, 1 pior SA, and suffered the loss of his mother to CA at 
age ___. Last ___ patient had ___ psychotic episode, initially 
thought to be manic as well, but from discussions with outpt. 
psychiatrist and viewing d/c summary, there is little evidence 
of a manic episode. Based on current presentation and past 
history, it appears that Mr. ___ is suffering from the early 
beginnings of Schizophrenia, likely paranoid type, with 
pronounced negative symptoms and subsequent post-psychotic 
depression.

In the future, if patient does not show adequate remission of 
symptoms with geodon, it may be reasonable to try Risperdone, 
given the availability of a long-acting injectable form. Also, a 
re-trial of Mirtazapine may also be a consideration in the 
future if ___ negative/cognitive sxs continue to be an issue, 
though a lower starting dose would be recommended with slow 
upward titration.

Medical: ___ initially complained is some hand pain and 
tingling in his right hand secondary to injury from concert. 
Physical exam of this region was benign. No imaging was felt to 
be necessary. Patient was managed with PRN Ibuprofen with good 
effect. One episode of orthostasis as noted above on unit, 
responded well to decrease in Geodon dose and increased PO 
intake. The patient did not experience any other medical issues 
during his hospitalization. His vitals were monitored daily and 
apart from the orthostatic episode remained stable. He will f/u 
with his PCP upon discharge.

Social: SW evaluation done on admission. SW in contact with 
family throughout stay. Conference call made with ___ and 
psychiatry resident during initial part of stay to discuss 
diagnosis, treatment, and likely dispo planning. Also, ___ 
court-ordered to contact ___ to bring school materials. 
Contact made and ___ of school came to bring ___ belongings 
and materials, thought ___ made the decision to not continue 
with school given his current hospitalization. Letter was 
submitted on his behalf in attempt to obtain refund of tuition. 
The associate ___ of ___ ___ 
(___) was contacted and will be receiving the letters. 
A family meeting was held with pt. and father, and treatment 
team on ___ to facilitate d/c planning. 

Legal: ___
Checks: 15 minutes throughout stay. No acute behavioral issues 
on unit. No suicidal ideation or behaviors noted during stay.

Dispo: The patient was found to be appropriate for discharge on 
the ___ day of hospitalization. His father ___ was 
present during his discharge, and the plan is for the patient to 
return to ___ with his father. He will follow up with his 
psychiatrist and PCP as scheduled.
 
Medications on Admission:
Lithium 600 am, 900 HS
 
Discharge Medications:
1. Lorazepam 1 mg Tablet ___: One (1) Tablet PO three times a 
day as needed for anxiety/agitation.
Disp:*20 Tablet(s)* Refills:*0*
2. Multivitamin     Tablet ___: One (1) Tablet PO DAILY (Daily). 
 
3. Tretinoin 0.1 % Cream ___: One (1) Appl Topical QHS (once a 
day (at bedtime)).  
4. Ziprasidone HCl 60 mg Capsule ___: One (1) Capsule PO BID (2 
times a day).
Disp:*30 Capsule(s)* Refills:*0*
5. Benztropine 1 mg Tablet ___: One (1) Tablet PO BID (2 times a 
day) as needed for EPS.
Disp:*26 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Schizophrenia, paranoid type, with prominent negative 
symptoms
Axis II: deferred
Axis III: no active medical issues

 
Discharge Condition:
Medically and psychiatrically stable for discharge home without 
thoughts of self-harm.

 
Discharge Instructions:
Please call your psychiatrist or go to nearest emergency room if 
you feel suicidal, homicidal, or your symptoms worsen.

Please take your medication as prescribed.

Please follow-up with your outpatient providers as scheduled.
 
Followup Instructions:
___